US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and methanol to give (1-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 241(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | methanol | CO | CH4O
product | (1-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C13H12N4O
